US07652015B2
4-(4-Amino-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester
Subject a slurry of 4-(4-nitro-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (3.0 g, 9.28 mmol) and 5% Pd/C (151 mg) in EtOAc (150 mL) to an atmosphere of hydrogen at 60 psi (Parr shaker) overnight at ambient temperature. Filter the reaction mixture through a pad of Celite® and concentrate under reduced pressure to provide the title compound as a white solid (2.6 g, 95% yield). LCMS ES+(m/z) 294 [M+H].

reactant | 4-(4-nitro-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 9.28 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=CC(=C1)[N+](=O)[O-] | C15H21N3O5
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 151 mg | [Pd] | Pd
product | 4-(4-Amino-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 2.6 g, 95% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=CC(=C1)N | C15H23N3O3
